US06548499B1
N-(6,7-Dichloro-3-pyridin-3-yl-quinoxalin-2-yl)-N′,N′-dimethyl-cyclohexane-1,4-diamine
A solution of 2,6,7-trichloro-3-pyridin-3-yl-quinoxaline (1.0 g) and N,N-dimethyl-cyclohexane-1,4-diamine in toluene (25 mL) was refluxed for 24 hours. After refluxing, the reaction mixture was cooled, filtered, and concentrated under vacuum. The residue was purified by flash chromatography (silica gel, 1:9 methanol/dichloromethane) to give the product as a yellow solid (0.43 g); mp 158-161° C.

reactant | 2,6,7-trichloro-3-pyridin-3-yl-quinoxaline | 1.0 g | ClC1=NC2=CC(=C(C=C2N=C1C=1C=NC=CC1)Cl)Cl | C13H6Cl3N3
reactant | N,N-dimethyl-cyclohexane-1,4-diamine | CN(C1CCC(CC1)N)C | C8H18N2
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | N-(6,7-Dichloro-3-pyridin-3-yl-quinoxalin-2-yl)-N′,N′-dimethyl-cyclohexane-1,4-diamine | 0.43 g | ClC=1C=C2N=C(C(=NC2=CC1Cl)NC1CCC(CC1)N(C)C)C=1C=NC=CC1 | C21H23Cl2N5
